simulator lang=spectre
global 0

ahdl_include "./dut/cdac_6b_stage1_up.va"

Vvin (vin 0) vsource dc=0.2
Vclks (clks 0) vsource type=pulse val0=0 val1=1 delay=0.1n period=10n width=0.7n rise=20p fall=20p
Vd5 (dctrl5 0) vsource type=pulse val0=0 val1=1 delay=1.2n period=20n width=8n rise=20p fall=20p
Vd4 (dctrl4 0) vsource type=pulse val0=0 val1=1 delay=1.8n period=20n width=8n rise=20p fall=20p
Vd3 (dctrl3 0) vsource type=pulse val0=0 val1=1 delay=2.4n period=20n width=8n rise=20p fall=20p
Vd2 (dctrl2 0) vsource type=pulse val0=0 val1=1 delay=3.0n period=20n width=8n rise=20p fall=20p
Vd1 (dctrl1 0) vsource dc=0
Vd0 (dctrl0 0) vsource dc=0
XDUT (vin clks dctrl0 dctrl1 dctrl2 dctrl3 dctrl4 dctrl5 vres) cdac_6b_stage1_up

tran tran stop=3.8n maxstep=10p
save vin clks dctrl0 dctrl1 dctrl2 dctrl3 dctrl4 dctrl5 vres
