simulator lang=spectre
global 0

ahdl_include "./dut/complete_calibration_loop.va"

Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=2n width=1n rise=50p fall=50p
Vrst (rst 0) vsource type=pwl wave=[0 0.9 2n 0.9 2.1n 0 52n 0 52.1n 0.9 57n 0.9 57.1n 0 90n 0]
Vvin (vin 0) vsource type=pwl wave=[0 0.45 8n 0.50 14n 0.40 20n 0.78 36n 0.16 50n 0.70 60n 0.42 72n 0.80 90n 0.80]

XDUT (clk rst vin out metric trim_mon residual_mon) complete_calibration_loop


tran tran stop=90n maxstep=0.5n
save clk rst vin out metric trim_mon residual_mon
