simulator lang=spectre
global 0

ahdl_include "./dut/differential_amplifier_core.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.20 8n 0.20 8.1n 0.45 18n 0.45 18.1n 0.70 28n 0.70 28.1n 0.38 45n 0.38]
Vn (sigin_n 0) vsource dc=0.40

XDUT (sigin_p sigin_n sigout) differential_amplifier_core


tran tran stop=40n maxstep=25p
save sigin_n sigin_p sigout
