simulator lang=spectre
global 0

ahdl_include "./dut/differential_gain_driver.va"

Vp (sigin_p 0) vsource type=pwl wave=[0 0.20 8n 0.20 8.1n 0.40 18n 0.40 18.1n 0.70 28n 0.70 28.1n 0.30 35n 0.30]
Vn (sigin_n 0) vsource dc=0.40
Vref (sigref 0) vsource dc=0.50

XDUT (sigin_p sigin_n sigout_p sigout_n sigref) differential_gain_driver gain=2


tran tran stop=30n maxstep=25p
save sigin_n sigin_p sigout_n sigout_p sigref
