simulator lang=spectre
global 0

ahdl_include "./dut/dither_adder.va"

parameters vdd=0.9 dither=0.032

Vresp (vres_p 0) vsource type=pwl wave=[0 0.56 15n 0.56 15.1n 0.62 35n 0.62 35.1n 0.50 55n 0.50 55.1n 0.68 80n 0.68 80.1n 0.54 120n 0.54]
Vresn (vres_n 0) vsource type=pwl wave=[0 0.34 15n 0.34 15.1n 0.28 35n 0.28 35.1n 0.40 55n 0.40 55.1n 0.22 80n 0.22 80.1n 0.36 120n 0.36]
Vdpn  (dpn    0) vsource type=pwl wave=[0 0    12n 0    12.1n 0.9  32n 0.9  32.1n 0    52n 0    52.1n 0.9  75n 0.9  75.1n 0  120n 0]

XDUT (vres_p vres_n dpn vout_p vout_n) dither_adder vdd=vdd vth=0.45 DITHER_AMP=dither


tran tran stop=120n maxstep=100p
save vres_p vres_n dpn vout_p vout_n
