// noise_gen private coverage testbench
// Uses a shifted DC input and a different sampled-noise scale.
simulator lang=spectre
global 0

ahdl_include "noise_gen_ref.va"

Vvin (vin_i 0) vsource type=dc dc=0.75

IDUT (vin_i vout_o) noise_gen sigma=0.08 dt=0.4n

tran tran stop=420n maxstep=0.8n
save vin_i vout_o
