simulator lang=spectre
global 0

ahdl_include "./dut/cmp_hysteresis.va"

// Continuous hysteresis comparator sweep

Vvdd (vdd 0) vsource dc=0.9 type=dc
Vvss (vss 0) vsource dc=0.1 type=dc

Vvinp (vinp vss) vsource type=pwl wave=[0 0.44 40n 0.46 80n 0.44]
Vvinn (vinn vss) vsource dc=0.45 type=dc

// DUT (port order: VINN VINP OUTN OUTP VSS VDD)
IDUT (vinn vinp out_n out_p vss vdd) cmp_hysteresis vhys=10m tedge=50p


tran tran stop=80n maxstep=100p
save vinp vinn out_p out_n vss vdd
