simulator lang=spectre
global 0

ahdl_include "./dut/mux4_priority.va"

Vsel0 (sel0 0) vsource type=pwl wave=[0 0.9 0.7n 0.9 0.75n 0 1.4n 0 1.45n 0.9 2.1n 0.9 2.15n 0 2.8n 0]
Vsel1 (sel1 0) vsource type=pwl wave=[0 0 1.4n 0 1.45n 0.9 2.8n 0.9]
Vin0 (in0 0) vsource dc=-0.35
Vin1 (in1 0) vsource dc=0.25
Vin2 (in2 0) vsource dc=0.65
Vin3 (in3 0) vsource dc=-0.05
XDUT (sel0 sel1 in0 in1 in2 in3 out) mux4_priority

tran tran stop=2.6n maxstep=5p
save in0 in1 in2 in3 out sel0 sel1
