simulator lang=spectre
global 0

ahdl_include "./dut/pipe15_data_align.va"

Vsamp (samp 0) vsource type=pulse val0=0 val1=0.9 delay=0.6n period=1.6n width=0.45n rise=20p fall=20p
Vd0 (d0 0) vsource type=pulse val0=0 val1=0.9 delay=0.15n period=3.2n width=1.6n rise=20p fall=20p
Vd1 (d1 0) vsource type=pulse val0=0 val1=0.9 delay=0.75n period=4.8n width=2.2n rise=20p fall=20p
Vd2 (d2 0) vsource type=pulse val0=0 val1=0.9 delay=1.35n period=3.2n width=1.4n rise=20p fall=20p
Vd3 (d3 0) vsource type=pulse val0=0 val1=0.9 delay=0.25n period=4.0n width=1.8n rise=20p fall=20p
Vd4 (d4 0) vsource type=pulse val0=0 val1=0.9 delay=1.05n period=3.2n width=1.2n rise=20p fall=20p
Vd5 (d5 0) vsource type=pulse val0=0 val1=0.9 delay=1.55n period=4.8n width=2.0n rise=20p fall=20p
Vd6 (d6 0) vsource type=pulse val0=0 val1=0.9 delay=0.45n period=5.6n width=2.4n rise=20p fall=20p
Vd7 (d7 0) vsource type=pulse val0=0 val1=0.9 delay=0.35n period=3.2n width=1.3n rise=20p fall=20p
Vd8 (d8 0) vsource type=pulse val0=0 val1=0.9 delay=1.25n period=4.8n width=1.7n rise=20p fall=20p
Vd9 (d9 0) vsource type=pulse val0=0 val1=0.9 delay=2.05n period=4.0n width=1.1n rise=20p fall=20p
Vd10 (d10 0) vsource type=pulse val0=0 val1=0.9 delay=0.95n period=5.6n width=1.9n rise=20p fall=20p
Vd11 (d11 0) vsource type=pulse val0=0 val1=0.9 delay=0.55n period=4.8n width=1.6n rise=20p fall=20p
Vd12 (d12 0) vsource type=pulse val0=0 val1=0.9 delay=1.65n period=4.0n width=1.8n rise=20p fall=20p
Vd13 (d13 0) vsource type=pulse val0=0 val1=0.9 delay=2.25n period=5.6n width=2.1n rise=20p fall=20p
Vd14 (d14 0) vsource type=pwl wave=[0 0.9 1.40n 0.9 1.45n 0 3.00n 0 3.05n 0.9 4.60n 0.9 4.65n 0 6.20n 0 6.25n 0.9 7.80n 0.9 7.85n 0 9.40n 0 9.45n 0.9 11.00n 0.9 11.05n 0]

XDUT (samp d0 d1 d2 d3 d4 d5 d6 d7 d8 d9 d10 d11 d12 d13 d14 do0 do1 do2 do3 do4 do5 do6 do7 do8 do9 do10 do11 do12 do13 do14) pipe15_data_align


tran tran stop=12n maxstep=20p
save d0 d1 d10 d11 d12 d13 d14 d2 d3 d4 d5 d6 d7 d8 d9 do0 do1 do10 do11 do12 do13 do14 do2 do3 do4 do5 do6 do7 do8 do9 samp
