simulator lang=spectre
global 0

ahdl_include "./dut/pipeline_adc_chain_4b.va"

// pipeline_adc_chain_4b gold testbench
// Drives one representative sample in every final 4-bit code bin. The
// alternating lower/upper-half points exercise both pipeline residue levels.

Vvdd (vdd 0) vsource dc=0.9
Vvss (vss 0) vsource dc=0.0
Vclk (clk 0) vsource type=pulse val0=0 val1=0.9 period=10n width=4n rise=100p fall=100p delay=5n
Vvin (vin 0) vsource type=pwl wave=[0n 0.005625 9.8n 0.005625 10n 0.106875 19.8n 0.106875 20n 0.118125 29.8n 0.118125 30n 0.219375 39.8n 0.219375 40n 0.230625 49.8n 0.230625 50n 0.331875 59.8n 0.331875 60n 0.343125 69.8n 0.343125 70n 0.444375 79.8n 0.444375 80n 0.455625 89.8n 0.455625 90n 0.556875 99.8n 0.556875 100n 0.568125 109.8n 0.568125 110n 0.669375 119.8n 0.669375 120n 0.680625 129.8n 0.680625 130n 0.781875 139.8n 0.781875 140n 0.793125 149.8n 0.793125 150n 0.894375 169n 0.894375]

IDUT (vdd vss vin clk res1 res2 s1b1 s1b0 s2b1 s2b0 dout3 dout2 dout1 dout0) pipeline_adc_chain_4b vrefp=0.9 vrefn=0.0 vth=0.45 tedge=100p


tran tran stop=170n maxstep=200p
save vdd vss vin clk res1 res2 s1b1 s1b0 s2b1 s2b0 dout3 dout2 dout1 dout0
